US06887873B2
Preparation of 2,4-bis(4-dimethylamino-2-methylquinolin-6-yl)amino-6-(3-dimethylaminopropyl)amino-[1,3,5]triazine
0.5 g (0.0036 mol) of potassium carbonate, 1 g (0.00189 mol) of 2,4-bis(4-dimethylamino-2-methylquinolin-6-yl)amino-6-chloro-[1,3,5]triazine prepared according to patent W0001561 and 1 ml (0.0078 mol) of N,N-dimethyl-1,3-propanediamine are successively loaded into a 250 ml round-bottomed flask containing 50 ml of DMF, with stirring, and then the mixture is heated for 15 hours at 100° C. The reaction medium is concentrated and taken up in 100 ml of water. The precipitate formed is filtered, washed with 2×50 ml of 0.1N NaOH and then dried. There are thus obtained 1.2 g of N,N′-bis(4-dimethylamino-2-methylquinolin-6-yl)-N″-(3-dimethylaminopropyl)-[1,3,5]triazine, which is purified by flash chromatography on 30 g of silica (35-70 μm), eluting with a mixture (85/10/5) of dichloromethane, methanol and triethylamine. There is thus obtained, after drying under vacuum at 40° C., 0.45 g (41%) of 2,4-bis(4-dimethylamino-2-methylquinolin-6-yl)amino-6-(3-dimethylaminopropyl)-amino-[1,3,5]triazine, in the form of a yellow powder whose characteristics are the following:

reactant | potassium carbonate | 0.0036 mol, 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-bis(4-dimethylamino-2-methylquinolin-6-yl)amino-6-chloro-[1,3,5]triazine | 0.00189 mol, 1 g | CN(C1=CC(=NC2=CC=C(C=C12)NC1=NC(=NC(=N1)NC=1C=C2C(=CC(=NC2=CC1)C)N(C)C)Cl)C)C | C27H28ClN9
reactant | N,N-dimethyl-1,3-propanediamine | 0.0078 mol, 1 ml | CN(CCCN)C | C5H14N2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2,4-bis(4-dimethylamino-2-methylquinolin-6-yl)amino-6-(3-dimethylaminopropyl)amino-[1,3,5]triazine | CN(C1=CC(=NC2=CC=C(C=C12)NC1=NC(=NC(=N1)NC=1C=C2C(=CC(=NC2=CC1)C)N(C)C)NCCCN(C)C)C)C | C32H41N11
